US07718601B2
Tumor Treatment by Neocarzinostatin
Human cervix adenocarcinoma HeLa cells are maintained as exponentially growing monolayers in Dulbecco modified Eagle's minimum essential medium with 4.5 g/l glucose, 0.1 g/l pyruvate, 105 UI/I penicilline, 0.1 g/l streptomycine, 0.86 g/l Glutamax I and 10% v/v foetal calf serum (37° C., 5% CO2), without or with 5 μM DL-threo-1-phenyl-2-hexadecanoyl-amino-3-morpholino-1-propanol (PPMP) to inhibit Gb3 expression. When present, PPMP is introduced into pre-cultures for at least 6 days prior to cytotoxicity assays and is present for up to drug wash.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | pyruvate | C(C(=O)C)(=O)[O-]
reactant | penicilline | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
reactant | streptomycine | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O | C21H39N7O12
reactant | Glutamax | C[C@@H](C(=O)N[C@@H](CCC(=O)N)C(=O)O)N | C8H15N3O4
reactant | CO2 | C(=O)=O | CO2
reactant | PPMP | CCC(=O)OC1(CCN(CC1)C)C2=CC=CC=C2 | C15H21NO2
product | Neocarzinostatin | CC1=CC(=CC=2C1=CC=CC2C(=O)O[C@@H]3C=C/4C#C[C@]5([C@H](O5)C#C/C=C4/[C@H]3O[C@@H]6[C@@H]([C@H]([C@H]([C@H](O6)C)O)O)NC)[C@H]7COC(=O)O7)OC | C35H33NO11
